US04026907
Trimethylhydroquinone was reacted with acrylophenone by the procedure of Example 1 to give (±)-6-hydroxy-2-methoxy-2-phenyl-5,7,8-trimethylchroman as a white solid, m.p. 190.5°-192.5° from acetone-30°-60° petroleum ether.

reactant | Trimethylhydroquinone | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | acrylophenone | C(C=C)(=O)C1=CC=CC=C1 | C9H8O
reactant | acetone | CC(=O)C | C3H6O
product | (±)-6-hydroxy-2-methoxy-2-phenyl-5,7,8-trimethylchroman | OC=1C(=C2CCC(OC2=C(C1C)C)(C1=CC=CC=C1)OC)C | C19H22O3
